US06716855B2
Preparation of N1-(4-Chlorobenzoyl)-N2-[1-(4-pyridyl)-piperidin-4-ylmethyl]-1,2-benzendiamine.
Using a similar procedure to that described in Example 2, Part D, N1-[1-(4-pyridyl)piperidin-4-ylmethyl)-1,2-benzenediamine (167 mg, 0.59 mmol) and 4-chlorobenzoyl chloride (0.075 mL, 0.59 mmol) yielded 137 mg (55%) of the title compound.

reactant | N1-[1-(4-pyridyl)piperidin-4-ylmethyl)-1,2-benzenediamine | 0.59 mmol, 167 mg | N1=CC=C(C=C1)N1CCC(CC1)CNC=1C(=CC=CC1)N | C17H22N4
reactant | 4-chlorobenzoyl chloride | 0.59 mmol, 0.075 mL | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
product | N1-(4-Chlorobenzoyl)-N2-[1-(4-pyridyl)-piperidin-4-ylmethyl]-1,2-benzendiamine | 137 mg, 55% | ClC1=CC=C(C(=O)NC=2C(=CC=CC2)NCC2CCN(CC2)C2=CC=NC=C2)C=C1 | C24H25ClN4O
